US06297259B1
N-Methyl-N-(4-(4-(hydroxydiphenylmethyl)-piperidin-1-yl)-2-phenylbutyl)benzamide
Prepare by the method of Example 1.7 using N-methyl-N-(2-phenyl-4-methanesulfonylbutyl)benzamide and 4-(hydroxydiphenylmethyl)piperidine to give the title compound.

reactant | N-methyl-N-(2-phenyl-4-methanesulfonylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCS(=O)(=O)C)C1=CC=CC=C1 | C19H23NO3S
reactant | 4-(hydroxydiphenylmethyl)piperidine | OC(C1CCNCC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21NO
product | N-Methyl-N-(4-(4-(hydroxydiphenylmethyl)-piperidin-1-yl)-2-phenylbutyl)benzamide | CN(C(C1=CC=CC=C1)=O)CC(CCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)C1=CC=CC=C1 | C36H40N2O2
